US09082983B1
Preparation of 2,3,5,6-tetraamino pyrazine (Scheme 3, Compound iv).
2,6-Diamino 3,5-dinitro pyrazine (15.0 g, 75 mmol), 5% palladium on carbon (2.0 g) and deoxygenated water (200 mL) was added to a parr shaker and charged with 50 psi of hydrogen and allowed to shake at room temperature for 24 hours. The reaction mixture was added to deoxygenated boiling water (750 mL) and filtered hot. The filtrate was allowed to cool to room temperature and the resulting solid was recrystallized from concentrated HCl (16.1 g, 80.1%). Crystal exists as a trihydrogen chloride mono hydrate system.

reactant | 2,6-Diamino 3,5-dinitro pyrazine | 75 mmol, 15.0 g | NC1=NC(=C(N=C1[N+](=O)[O-])[N+](=O)[O-])N | C4H4N6O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | water | 200 mL | O | H2O
product | 2,3,5,6-tetraamino pyrazine | NC1=NC(=C(N=C1N)N)N | C4H8N6
